US07683060B2
Step 2. (2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoyl}amino)butanoic acid
Tert-butyl-(2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)-[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoyl}amino)butanoate was dissolved in methylene chloride (0.7 ml). To the solution was added TFA (0.7 ml). The mixture was stirred for 1.5 h. The volatiles were removed under reduced pressure to yield the desired product. Analytical LCMS: (M+H)+=522.2.

reactant | Tert-butyl-(2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)-[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoyl}amino)butanoate | C(C)(C)(C)OC([C@H](C(C)(C)C)NC(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O)=O | C33H35N7O3
reactant | TFA | 0.7 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 0.7 ml | C(Cl)Cl | CH2Cl2
product | (2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoyl}amino)butanoic acid | CC([C@@H](C(=O)O)NC(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O)(C)C | C29H27N7O3
